US07671201B2
Step A Synthesis of tert-butyl 4-{[2,6-dichloro-4-(phenylmethoxy)phenoxy]methyl}piperidinecarboxylate as an intermediater
A stirred solution of 10.0 grams (0.046 mole) of tert-butyl 4-(hydroxymethyl)piperidinecarboxylate (commercially available) and 12.5 grams (0.046 mole) of 2,6-dichloro-4-(phenylmethoxy)phenol (known compound) in 100 mL of THF was cooled in an ice-water bath and 12.2 grams (0.046 mole) of triphenylphosphine was added in one portion. Upon completion of addition 9 mL (0.046 mole) of diisopropyl azodicarboxylate was added dropwise during a five minute period. Upon completion of addition the reaction mixture was allowed to warm to ambient temperature where it stirred during an 18 hour period. After this time the reaction mixture was concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel using methylene chloride as an eluant. The appropriate fractions were combined and concentrated under reduced pressure, yielding 21 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | tert-butyl 4-(hydroxymethyl)piperidinecarboxylate | 0.046 mole, 10.0 grams | OCC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO3
reactant | 2,6-dichloro-4-(phenylmethoxy)phenol | 0.046 mole, 12.5 grams | ClC1=C(C(=CC(=C1)OCC1=CC=CC=C1)Cl)O | C13H10Cl2O2
reactant | triphenylphosphine | 0.046 mole, 12.2 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.046 mole, 9 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-{[2,6-dichloro-4-(phenylmethoxy)phenoxy]methyl}piperidinecarboxylate | 21 grams | ClC1=C(OCC2CCN(CC2)C(=O)OC(C)(C)C)C(=CC(=C1)OCC1=CC=CC=C1)Cl | C24H29Cl2NO4
